US04490382
6-Amino-2,2-dimethylpenam-3-carboxylic acid (324 mg.) was dissolved in phosphate buffer at pH 7 using one equivalent of NaHCO3. To the stirred solution was added 1-methyl-3-methoxybenzimidazolium methane-sulphonate and stirring was continued for 6 hours at ambient temperature. The white solid which precipitated was filtered, washed with ice-cold water and dried in vacuo over P2O5 to give 2,2-dimethyl-6-(1-methylbenzimidazol-2-yl)aminopenam-3-carboxylic acid dihydrate (186 mg.) having the following n.m.r in d6DMSO: 1.5 (s, 3H); 1.65 (s, 3H); 3.6 (s, 3H); 4.25 (s, 1H); 5.55 (m, 2H); 6.9-7.4 (m, 4H).

reactant | 6-Amino-2,2-dimethylpenam-3-carboxylic acid | 324 mg | NC1[C@@H]2N(C(C(S2)(C)C)C(=O)O)C1=O | C8H12N2O3S
reactant | NaHCO3 | one equivalent | C(=O)(O)[O-].[Na+]
reactant | 1-methyl-3-methoxybenzimidazolium methane-sulphonate | CS(=O)(=O)[O-].C[N+]1=CN(C2=C1C=CC=C2)OC
solvent | phosphate | P(=O)([O-])([O-])[O-]
product | 2,2-dimethyl-6-(1-methylbenzimidazol-2-yl)aminopenam-3-carboxylic acid dihydrate | 186 mg | O.O.CC1(S[C@H]2N(C1C(=O)O)C(C2NC2=NC1=C(N2C)C=CC=C1)=O)C | InChI=1S/C16H18N4O3S.2H2O/c1-16(2)11(14(22)23)20-12(21)10(13(20)24-16)18-15-17-8-6-4-5-7-9(8)19(15)3;;/h4-7,10-11,13H,1-3H3,(H,17,18)(H,22,23);2*1H2/t10?,11?,13-;;/m1../s1
